US08895745B2
Step b) 1-{3-[7-(4-Methyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea formate
To a solution of 1-{3-[7-(5-Mercapto-4-methyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea (72 mg, 0.16 mmol) in EtOH (3 ml) was added KOH (10 mg, 0.18 mmol) and iodomethane (20 μl, 0.16 mmol) and the reaction mixture was stirred at room temperature overnight. The reaction mixture was placed in an ice bath and the precipitate formed filtered off. The precipitate was purified by reverse phase HPLC to afford the title compound (18 mg). MS: [M+H]+=462.

reactant | 1-{3-[7-(5-Mercapto-4-methyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea | 0.16 mmol, 72 mg | SC=1N(C(=NN1)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C | C19H16F3N7OS
reactant | KOH | 0.18 mmol, 10 mg | [OH-].[K+]
reactant | iodomethane | 0.16 mmol, 20 μl | IC | CH3I
solvent | EtOH | 3 ml | CCO | C2H6O
product | 1-{3-[7-(4-Methyl-5-methylsulfanyl-4H-[1,2,4]triazol-3-yl)-imidazo[1,2-a]pyridin-3-yl]-phenyl}-3-(2,2,2-trifluoro-ethyl)-urea formate | 18 mg | C(=O)O.CN1C(=NN=C1SC)C1=CC=2N(C=C1)C(=CN2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F | InChI=1S/C20H18F3N7OS.CH2O2/c1-29-17(27-28-19(29)32-2)13-6-7-30-15(10-24-16(30)9-13)12-4-3-5-14(8-12)26-18(31)25-11-20(21,22)23;2-1-3/h3-10H,11H2,1-2H3,(H2,25,26,31);1H,(H,2,3)
